US08530473B2
0.43 g of tert-butyl ester of 4-[5-(4-methyl-4-phenyl-[1,4]azasilinan-1-yl)-pyridin-2-yl]-3,4-dihydro-2H-quinoxaline-1-carboxylic acid is put in 50 mL of dichloromethane and after cooling on an ice bath, 3.5 mL of a 4N solution of hydrochloric acid in dioxane is added. The reaction mixture is stirred for 16 h. After concentration, the mixture is taken up in dichloromethane, and neutralized by adding a saturated solution of sodium bicarbonate. After decanting, the aqueous phase is extracted with dichloromethane. The dichloromethane phases are combined and dried over sodium sulfate. After concentration under vacuum, 0.338 g of 1-[5-(4-methyl-4-phenyl[1,4]azasilinan-1-yl)-pyridin-2-yl]-1,2,3,4-tetrahydroquinoxaline is obtained.

reactant | 4-[5-(4-methyl-4-phenyl-[1,4]azasilinan-1-yl)-pyridin-2-yl]-3,4-dihydro-2H-quinoxaline-1-carboxylic acid | C[Si]1(CCN(CC1)C=1C=CC(=NC1)N1CCN(C2=CC=CC=C12)C(=O)O)C1=CC=CC=C1 | C25H28N4O2Si
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-[5-(4-methyl-4-phenyl[1,4]azasilinan-1-yl)-pyridin-2-yl]-1,2,3,4-tetrahydroquinoxaline | 0.338 g | C[Si]1(CCN(CC1)C=1C=CC(=NC1)N1CCNC2=CC=CC=C12)C1=CC=CC=C1 | C24H28N4Si
